US08648099B2
c) 5-(4-Chlorophenyl)-N′-(3-hydroxypropyl)-N′-methyl-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid hydrazide
The title compound was synthesized in analogy to Example 1 using 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid (CAN 1018782-82-5) and N-[3-(t-butyl-dimethyl-silanyloxy)-propyl]-N-methyl-hydrazine trifluoroacetate (1:1) as starting materials; the silyl protecting group was lost during reaction and work-up; LC-MS (UV peak area/ESI) 91.5%, 418.1139 (M+H)+.

reactant | 5-(4-chlorophenyl)-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)O | C14H9ClF3NO3
reactant | N-[3-(t-butyl-dimethyl-silanyloxy)-propyl]-N-methyl-hydrazine trifluoroacetate | FC(C(=O)O)(F)F.C(C)(C)(C)[Si](OCCCN(N)C)(C)C
product | 5-(4-Chlorophenyl)-N′-(3-hydroxypropyl)-N′-methyl-6-(2,2,2-trifluoroethoxy)-3-pyridinecarboxylic acid hydrazide | ClC1=CC=C(C=C1)C=1C=C(C=NC1OCC(F)(F)F)C(=O)NN(C)CCCO | C18H19ClF3N3O3
